US04840963
Step E: Preparation of 5,6 Methylenedioxy-2-sulfamoylindole
An initial suspension of 5,6-methylenedioxy-1-benzenesulfonyl-2-sulfamoylindole (2.21 gm, 5.8 mmol) in 40% sodium hydroxide (4 ml, 40 mmol) and water (11 ml) was warmed at 90° C. for 1 hour to give a homogeneous solution. The reaction was cooled to room temperature and the product salt precipitated. This mixture was acidified with conc. HCl and the precipitated producted collected by filtration. This solid was dissolved in ethyl acetate/acetonitrile, and dried (anhydrous Na2SO4). This solution was filtered through a charcoal pad and the solvents evaporated. The residue was triturated with diethyl ether to give the crystalline product (1.1 gm), mp 234°-237° C.

reactant | 5,6-methylenedioxy-1-benzenesulfonyl-2-sulfamoylindole | 5.8 mmol, 2.21 gm | C1OC=2C=C3C=C(N(C3=CC2O1)S(=O)(=O)C1=CC=CC=C1)S(N)(=O)=O | C15H12N2O6S2
reactant | sodium hydroxide | 40 mmol, 4 ml | [OH-].[Na+]
solvent | water | 11 ml | O | H2O
product | 5,6 Methylenedioxy-2-sulfamoylindole | 1.1 gm | C1OC=2C=C3C=C(NC3=CC2O1)S(N)(=O)=O | C9H8N2O4S
